US08076324B2
a) (2-Methylsulfanylphenyl)methanol
5 g of 2-methylsulfanylbenzoic acid were dissolved in 50 ml of toluene, treated in portions at 20° C. with 14.5 ml of a solution of sodium dihydridobis(2-methoxy-ethoxy)aluminate (Red-AI®; 65% strength in toluene) and stirred for 5 h. The reaction mixture was added to 200 ml of water and extracted three times with 100 ml each of EA. The combined organic phases were dried with magnesium sulfate and the solvent was removed in vacuo. 4.6 g of the crude title compound were obtained as a brown oil.

reactant | 2-methylsulfanylbenzoic acid | 5 g | CSC1=C(C(=O)O)C=CC=C1 | C8H8O2S
reactant | water | 200 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (2-Methylsulfanylphenyl)methanol | 4.6 g | CSC1=C(C=CC=C1)CO | C8H10OS
